US06211234B1
A stirred solution of N-methoxymethylamine (3.47 g) and triethylamine (10.4 mL) in dichloromethane (100 mL) at 5° C. is treated dropwise with 3-iodobenzoyl chloride (9.8 g). The reaction mixture is stirred at room temperature for 2 hours, washed twice with water (70 mL), dried over magnesium sulphate, and evaporated to give N-methoxy-N-methyl-3-iodobenzamide (9.8 g) as a brown oil.

reactant | N-methoxymethylamine | 3.47 g | COCN | C2H7NO
reactant | triethylamine | 10.4 mL | C(C)N(CC)CC | C6H15N
reactant | 3-iodobenzoyl chloride | 9.8 g | IC=1C=C(C(=O)Cl)C=CC1 | C7H4ClIO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-methoxy-N-methyl-3-iodobenzamide | 9.8 g | CON(C(C1=CC(=CC=C1)I)=O)C | C9H10INO2
